US09023846B2
A solution of 5-tert-butyl-4-chloro-2-methyl-2H-pyrazole-3-carboxylic acid [5-bromo-3-(4-methoxy-benzylamino)-pyrazin-2-yl]-amide (28 mg, 0.04 mmol, prepared as described in the previous step) in TFA (3.5 mL) was stirred at 65° C. for 3 h. The resulting mixture was allowed to cool to room temperature, TFA was removed in vacuo and the resulting residue was dissolved in EtOAc (10 mL) and washed with saturated NaHCO3 (20 mL). EtOAc layer was separated, dried (Na2SO4), and concentrated in vacuo. The resulting residue was dissolved in HOAc (3.5 mL) and stirred at 100° C. overnight. The resulting mixture was allowed to cool to room temperature and the HOAc was removed in vacuo. The resulting residue was dissolved in EtOAc (10 mL) and washed with saturated NaHCO3 (10 mL). EtOAc layer was separated, dried (Na2SO4), and concentrated in vacuo. The resulting residue was purified on silica 0:100-50:50 EtOAc-hexane to yield 2-(5-tert-butyl-4-chloro-2-methyl-2H-pyrazol-3-yl)-6-(2-trifluoromethyl-phenyl)-1H-imidazo[4,5-b]pyrazine. 1H-NMR (CD3OD) δ: 8.53-8.57 (br s, 1H), 7.82-7.86 (m, 1H), 7.68-7.74 (m, 1H), 7.61-7.67 (m, 1H), 7.57-7.60 (m, 1H), 4.19 (s, 3H), 1.43 (s, 9H). Mass Spectrum (LCMS, ESI pos.): Calculated for C20H18ClF3N6: 435.1 (M+H); Measured: 435.1.

reactant | 5-tert-butyl-4-chloro-2-methyl-2H-pyrazole-3-carboxylic acid [5-bromo-3-(4-methoxy-benzylamino)-pyrazin-2-yl]-amide | BrC=1N=C(C(=NC1)NC(=O)C=1N(N=C(C1Cl)C(C)(C)C)C)NCC1=CC=C(C=C1)OC | C21H24BrClN6O2
reactant | TFA | 3.5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | 2-(5-tert-butyl-4-chloro-2-methyl-2H-pyrazol-3-yl)-6-(2-trifluoromethyl-phenyl)-1H-imidazo[4,5-b]pyrazine | C(C)(C)(C)C=1C(=C(N(N1)C)C1=NC=2C(=NC(=CN2)C2=C(C=CC=C2)C(F)(F)F)N1)Cl | C20H18ClF3N6
